US09422292B2
A solution of 1-benzyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (160 mg, 0.60 mmol) and P2S5 (140 mg, 0.63 mmol) in 20 mL of pyridine was heated to reflux and stirred for 1 h under N2 atmosphere. The solvent was evaporated in vacuo, the residue was purified by prep-TLC (DCM:MeOH=50:1) to give 1-benzyl-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (50 mg, 30%). 1H NMR (300 MHz, DMSO): δ 3.74 (q, J=12.3 Hz, J=12.3 Hz, 1H), 5.12 (q, J=15.6 Hz, J=15.9 Hz, 1H), 7.03-7.06 (m, 2H), 7.17-7.27 (m, 6H), 7.48 (d, J=7.5 Hz, 1H).

reactant | 1-benzyl-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 0.60 mmol, 160 mg | C(C1=CC=CC=C1)N1C2=C(NC(CC1=O)=O)C=CC=C2 | C16H14N2O2
reactant | P2S5 | 0.63 mmol, 140 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-4-thioxo-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 50 mg, 30% | C(C1=CC=CC=C1)N1C2=C(NC(CC1=O)=S)C=CC=C2 | C16H14N2OS
